US05753679
0.97 g (0.00959 mol) of 4-hydroxypiperidine was dissolved in 20 ml of dimethylformamide and cooled to 0°. 1.93 g (0.0096 mol) of 4-methoxybenzyl bromide and 3.0 ml (0.0215 mol) of triethylamine were added under argon and the mixture was left to come to room temperature. It was stirred for 18 hrs., the solvent was distilled off and the residue was taken up in ethyl acetate. The organic phase was washed with water and saturated sodium chloride solution, dried over magnesium sulfate and concentrated and the residue was chromatographed on silica gel with dicloromethane/methanol (19:1) as the eluent. 1.7 g (80%) of 1-(4-methoxy-benzyl)-piperidin-4-ol were obtained as a brown oil. MS: me/e=222 (C13H20NO2+).

reactant | 4-hydroxypiperidine | 0.00959 mol, 0.97 g | OC1CCNCC1 | C5H11NO
reactant | 4-methoxybenzyl bromide | 0.0096 mol, 1.93 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | triethylamine | 0.0215 mol, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(4-methoxy-benzyl)-piperidin-4-ol | 1.7 g, 80% | COC1=CC=C(CN2CCC(CC2)O)C=C1 | C13H19NO2
